US06432975B1
The manner in which 2-[(3-aminophenyl)methyl]-1-azabicyclo[2.2.2]octane is synthesized can vary. For example, in one method, 3-nitrobenzaldehyde can be condensed with 3-quinuclidinone in an aldol reaction using potassium hydroxide and ethanol to yield 2-[(3-nitrophenyl)methylene]-1-azabicyclo[2.2.2]octan-3-one. The latter compound can be converted to the corresponding dithioketal by treatment with 1,2-ethanedithiol and boron triflouride etherate. Reduction and desulfurization can be effected by hydrogenation using Raney nickel to yield 2-[(3-aminophenyl)methyl]-1-azabicyclo[2.2.2]octane. Alternatively, in another method, the aldol product, 2-[(3-nitrophenyl)methylene]-1-azabicyclo[2.2.2]octan-3-one can be reduced by treatment with sodium borohydride in methanol to give the alcohol, 2-[(3-nitrophenyl)methylene]-1-azabicyclo[2.2.2]octan-3-ol. The latter compound can be converted to the chloro intermediate, 3-chloro-2-[(3-nitrophenyl)methylene]-1-azabicyclo[2.2.2]octane dihydrochloride upon treatment with thionyl chloride. Dechlorination by hydrogenation with Raney nickel and carbon-carbon double bond reduction by hydrogenation over 10% palladium on carbon can then be effected to yield 2-[(3-aminophenyl)methyl]-1-azabicyclo[2.2.2]octane. Replacement of 3-nitrobenzaldehyde with 2-nitrobenzaldehyde or 4-nitrobenzaldehyde in the above synthetic approach affords the isomeric compounds, 2-[(2-aminophenyl)methyl]-1-azabicyclo[2.2.2]octane and 2-[(4-aminophenyl)methyl]-1-azabicyclo[2.2.2]octane, respectively.

reactant | 3-chloro-2-[(3-nitrophenyl)methylene]-1-azabicyclo[2.2.2]octane dihydrochloride | Cl.Cl.ClC1C(N2CCC1CC2)=CC2=CC(=CC=C2)[N+](=O)[O-]
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | carbon carbon | [C].[C] | 2C
catalyst | Raney nickel | [Ni] | Ni
catalyst | palladium on carbon | [Pd] | Pd
product | 2-[(3-aminophenyl)methyl]-1-azabicyclo[2.2.2]octane | NC=1C=C(C=CC1)CC1N2CCC(C1)CC2 | C14H20N2
